US06162809
1. 4-(2-Furylmethylthio)-3-methyl-2-[(2-pyridinylthio)methyl]pyridine
One equivalent (2.92 g) of 2-chloromethyl-4-(2-furylmethylthio)-3-methylpyridine hydrochloride (dissolved in 10 ml of water) is added dropwise at 40° C. in the course of 20 min. to a solution of 2-mercaptopyridine (1.12 g/10 mmol) in 40 ml of ethanol and 21 ml of 1 N sodium hydroxide solution. The mixture is then stirred for 2-3 h at 50-60° C. and for a further 3-4 h at RT.

reactant | 2-chloromethyl-4-(2-furylmethylthio)-3-methylpyridine hydrochloride | 10 ml, 2.92 g, One equivalent | Cl.ClCC1=NC=CC(=C1C)SCC=1OC=CC1
reactant | 2-mercaptopyridine | 10 mmol, 1.12 g | SC1=NC=CC=C1 | C5H5NS
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 1 N, 21 ml | [OH-].[Na+]
product | 4-(2-Furylmethylthio)-3-methyl-2-[(2-pyridinylthio)methyl]pyridine | O1C(=CC=C1)CSC1=C(C(=NC=C1)CSC1=NC=CC=C1)C | C17H16N2OS2
